US04711889
A mixture of 3.9 g of acridanone, 1.0 g of sodium hydride and 80 ml of dimethylformamide is stirred for 0.5 hours, then treated with 2.9 g of 1-chloro-2-dimethylaminoethane hydrochloride, stirred at 60° for 18 hours and evaporated. The residue is extracted with methylene chloride. The extract is washed with water, dried over sodium sulfate and evaporated. By crystallization from isopropyl ether there is obtained 10-[2-(dimethylamino)ethyl]-9-acridanone of melting point 145°-146°.

reactant | acridanone | 3.9 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 1-chloro-2-dimethylaminoethane hydrochloride | 2.9 g | Cl.ClCCN(C)C
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 10-[2-(dimethylamino)ethyl]-9-acridanone | CN(CCN1C=2C=CC=CC2C(C2=CC=CC=C12)=O)C | C17H18N2O
